Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
aortic stenosis
 
Major Surgical or Invasive Procedure:
TAVR ___
 
History of Present Illness:
Mr ___ is a ___ year old community dwelling male with 
hx of aortic stenosis, CAD s/p CABG, afib on Eliquis (last dose 
___, pulm HTN, h/o previous stroke and diastolic heart 
failure (admitted  ___ for acute on chronic 
diastolic heart failure), colon CA s/p resection, and recent 
choledocholithiasis and cholangitis s/p ERCP in ___. He is 
now admitted to the CCU service for an elective TAVR procedure 
of his underlying severe aortic stenosis. He is accompanied 
today by his wife.

Since his discharge on ___, Mr ___ has felt well. He has 
been able to ambulate at home with the assistance of a walker. 
He usually ambulates with a cane. He has had no recent illness 
since discharge. No medication changes in the interim. Overall 
feels well, although he does endorse fatigue with ambulation, 
which is chronic. He has had leg swelling in the past, but 
denies any recent. 

REVIEW OF SYSTEMS:  
(+) per HPI  
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope. Denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies recent fevers, 
chills or rigors. Denies exertional buttock or calf pain. All If 
the other review of systems were negative.  
 
Past Medical History:
- Coronary artery disease - s/p CABG - LIMA graft to the LAD and 

 R vein grafts to the PDA, obtuse marginal and diagonal branch. 
A tricuspid valve was repaired with an annuloplasty ring. 
- Aortic stenosis  
- Dyslipidemia  
- Hypertension  
- Atrial fibrillation on eliquis 
- pulmonary hypertension  
- L1-5 compression fractures with cord injury ___ to crashing 
___ aircraft while flying as a ___ in ___: has  
baseline decreased sensation of bilateral ___  
- Urinary retention secondary to traumatic spinal cord injuries  

- Surgery on urethra/bladder  
- Left hemispheric TIA in (___) presented with dysarthria  
- Asymptomatic right parietal subcortical infarct  
- Macular degeneration  
- Glaucoma  
- Colon cancer s/p colonic resection (at ___ (___)  
- Decubitus ulcer c/b osteomyelitis
- Cholangitis s/p ERCP stent placement  

 
Social History:
___
Family History:
Father and mother were in good health until ___. Has 3  
daughters- all healthy. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 96.7 117/37 74 16 100/RA
Wt on Admission: 65.1
GEN: NAD, comfortable appearing elderly male 
HEENT: NCAT anicteric MMM, ___  
NECK: Supple, FROM, no thyromegally, audible radiation of 
cardiac murmur to bilateral carotids. 
CV: RRR nl S1, soft S2 with blowing holosystolic murmur across 
precordium. No diastolic component. 2+ radial and DP pulsus
RESP: Faint rales at b/l bases, symmetrical and good aeration. 
No other focal advanticious findings. 
ABD: NABS soft, NT, ND, no guarding or rebound  
SACRUM 1 cm decubitus
GU: No Foley in place 
EXTR:2+ ___ pulses b/l  
DERM: no rashes or lesions 
NEURO: AAOx2 PERRLA EOMI facial movements symmetric speech 
fluent Tongue and palate extension midline.  ___ strength in b/l 
upper 
and lower extremities.   
PSYCH: calm, cooperative 

DISCHARGE EXAM 
97.6 50-68 107-129/46-66 18 94-99% RA
65.6 kg, 66.2kg (BW)
400/500+ (inc.)  
GENERAL:  A&Ox3, lying in bed.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM
NECK: Supple with no noticeable JVP. No carotid bruits
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Irregularly irregular rhythm, normal S1, S2. No 
murmurs/rubs/gallops. No thrills, lifts.  
LUNGS: lungs clear. Otherwise no wheezes or rhonchi. No chest 
wall deformities, scoliosis or kyphosis. Resp were unlabored, no 
accessory muscle use.
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: 2+ radial pulses, 1+ DP
 
Pertinent Results:
ADMISSION LABS:
======================
___ 03:20PM BLOOD WBC-6.6 RBC-3.74* Hgb-10.2* Hct-33.9* 
MCV-91 MCH-27.3 MCHC-30.1* RDW-17.7* RDWSD-58.4* Plt ___
___ 03:20PM BLOOD ___ PTT-36.2 ___
___ 03:20PM BLOOD Glucose-93 UreaN-23* Creat-1.1 Na-136 
K-4.7 Cl-101 HCO3-25 AnGap-15
___ 03:20PM BLOOD ALT-9 AST-22 CK(CPK)-18* AlkPhos-132* 
TotBili-0.7
___ 03:20PM BLOOD proBNP-4436*
___ 03:20PM BLOOD Albumin-3.2*

Urine:
======================
___ 01:18PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:18PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG

PERTINENT LABS
==============
___ 09:35AM BLOOD WBC-4.3 RBC-3.51* Hgb-9.6*# Hct-31.3*# 
MCV-89 MCH-27.4 MCHC-30.7* RDW-16.7* RDWSD-54.4* Plt ___
___ 05:40AM BLOOD WBC-4.5 RBC-2.81* Hgb-7.6* Hct-24.8* 
MCV-88 MCH-27.0 MCHC-30.6* RDW-17.2* RDWSD-55.4* Plt ___
___ 05:40AM BLOOD Ret Aut-2.1* Abs Ret-0.06

DISCHARGE LABS
==============
___ 08:59AM BLOOD WBC-4.7 RBC-3.67* Hgb-10.2* Hct-33.7* 
MCV-92 MCH-27.8 MCHC-30.3* RDW-16.7* RDWSD-56.0* Plt ___
___ 08:59AM BLOOD ___ PTT-33.2 ___
___ 08:59AM BLOOD Glucose-92 UreaN-24* Creat-1.0 Na-138 
K-4.4 Cl-105 HCO3-22 AnGap-15
___ 08:59AM BLOOD Calcium-9.0 Phos-3.5 Mg-1.9

Micro:
=====================
__________________________________________________________
___ 1:19 pm Staph aureus Screen
      Source: Nasal swab NARES, BREAST, AXILLA. 

   Staph aureus Screen (Preliminary): 
      STAPH AUREUS COAG +. 
__________________________________________________________
___ 1:18 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

Imaging:
=====================
# CXR (___): IMPRESSION:  Small right pleural effusion is 
improved, left moderate pleural effusion is unchanged, and mild 
pulmonary edema has resolved since ___. 

# TTE (___): There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). The aortic valve leaflets are severely 
thickened/deformed. Mild (1+) aortic regurgitation is seen. 
POST-Valve implantation: A well-seated ___ 3 aortic valve 
prosthesis is seen with thin/mobile leaflets.. No aortic 
regurgitation is identified.  

# TAVR (___): Vascular access was obtained in the Left 
femoral artery and vein using vascular ultrasound techniques. 
The Left femoral artery was used to advance a ___ Fr Pigtail 
catheter to the right coronary sinus. Aortography was performed 
using 10 cc diluted contrast injection. Vascular access was 
obtained in the left femoral vein using ultrasound guidance and 
a ___ Fr temporary pacemaker was placed in the right ventricle. 
Vascular access was obtained in the right femoral artery using 
vascular ultrasound guidance. An ___ Fr E-Sheath was advanced in 
the right femoral artery after dilating with 18 and 20 dilators. 
Unfractionated heparin was given to achieve an ACT > 250 
seconds. The aortic valve was crossed and a Pigtail catheter was 
advanced into the left ventricle.  Simultaneous left ventricular 
and aortic pressures were recorded and demonstrated severe 
aortic stenosis. The 0.035" exchange "J" wire was exchanged for 
a 0.035"
Extra stiff wire and the Pigtail was removed.  Balloon 
valvuloplasty was done with rapid pacing. A 29 ___ 3 was 
the advanced across iliofemoral and aortic arch to the aortic 
valve without difficulty.  Using aortography and placement of a 
Pigtail catheter to demonstrate the position
of the ___ 3, it was deployed with great result by 
hemodynamics, angio and TTE. Only 51 ml of contrast was used for 
procedure. There was no evidence of coronary compromise 
following the procedure. Protamine was given. The sheath was 
removed in the right femoral artery with two
Proglides in a Preclose manner.  The patient was transported to 
the CCU in stable condition.

___ Cardiovascular ECHO
The left atrial volume index is severely increased. The right 
atrium is markedly dilated. The estimated right atrial pressure 
is ___ mmHg. Normal left ventricular wall thickness, cavity 
size, and regional/global systolic function (biplane LVEF = 57 
%). The right ventricular cavity is mildly dilated with normal 
free wall contractility. A ___ aortic valve bioprosthesis 
is present. The transaortic gradient is normal for this 
prosthesis. A paravalvular aortic valve leak is probably 
present. The aortic valve VTI = 37 cm. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. Mild to 
moderate (___) mitral regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.

IMPRESSION: A well seated aortic ___ 3 valve is seen with 
normal gradients and mild paravalvular aortic regurgitation. 
Moderate pulmonary systolic arterial hypertension.

Compared with the prior study (images reviewed) of ___, 
there now is an aortic ___ present.  

 
Brief Hospital Course:
BRIEF SUMMARY
=============
Mr. ___ is a ___ year old male with a PMH of severe aortic 
stenosis, CAD s/p CABG, afib on apixaban, NYHA III-IV dCHF, 
colon CA s/p resection, and recent choledocholithiassi who 
presented for TAVR for correction of severe aortic stenosis.
The patient underwent the TAVR without complication, but 
experienced post-procedure asymptomatic bradycardia with no 
evidence of third degree heart block.

ACUTE ISSUES
============ 
# Severe Aortic Stenosis: The patient underwent a TAVR for 
severe aortic stenosis with placement of ___ 3 device. He 
briefly required a nitroglycerin drip, and was extubated without 
complications. He is being anticoagulated with aspirin 81 daily 
and apixaban. No clopidogrel given as this is not necessary with 
this combination. 

# Bradycardia: The patient was bradycardic to the ___ on arrival 
to CCU post-TAVR.  EKG showed afib with slow ventricular rate. 
It is unlikely that this represents complete heart block as a 
complication of the TAVR procedure given the continued rhythm 
irregularity and similar QRS axis from prior EKGs. His 
metoprolol was held.

#Normocytic anemia: The patient has a chronic normocytic anemia 
with a baseline ___. His hemoglobin fell to the high 7s during 
his course. Stool guaiac negative, and no obvious source of 
bleeding. Hemolysis labs were negative. He was transfused 1 u 
pRBCs, with stabilization of his H/H. Her WBC and platelets fell 
with roughly equal percentage, so this likely represents 
hemodilution. His discharge hgb was 10.2

#Thrombocytopenia: the patient experienced a platelet drop from 
247 to a nadir of 139. Her WBC and H/H fell with roughly equal 
percentage, so this likely represents hemodilution.  

CHRONIC ISSUES:
# dCHF: LVEF 55%. Admission wt: 65.1 (previous discharge 
weight). His metoprolol was held as above and his home 
furosemide was restarted at 40 mg po daily. He did not require 
any additional potassium repletion after starting on the PO 
furosemide so was not discharged with a potassium prescription

# Afib: Prior to admission, rate controlled with metoprolol, 
anticoagulated with apixaban. Metoprolol held as above due to 
bradycardia. He was discharged on his home apixaban dose.

#Sacral ulcer: Chronic, he was rolled frequently to prevent 
worsening of the ulcer

# Phimosis: Chronic, followed by urology. He presented with a 
foley still in place from prior admission (given difficult 
placement). This was removed without incident during his course. 
He is scheduled to follow up with urology as an outpatient.

TRANSITIONAL ISSUES
===================
-The patient experienced asymptomatic bradycardia post-procedure 
with rates in the ___. His EKG showed a similar QRS axis from 
prior EKGs and the rhythm was irregular, so this is unlikely to 
be heart block post-procedure
-The patient's metoprolol was held due to asymptomatic 
bradycardia. Consider restarting if his heart rate normalizes.
-The patient's foley catheter placed during his last admission 
was removed without complication. Patient was scheduled to 
follow up with urology
- Patient hgb on d/c 10.2. Please recheck hgb on next PCP 
appointment given history of longstanding anemia. Hemolytic labs 
and guaic were negative in house. 
-Since patient already on apixaban for anticoagulation, patient 
was out on regimen of apixaban + aspirin only (no Plavix) for 
TAVR. In consultation with CCU team, this was deemed 
appropriate, with patient receiving a one time dose of Plavix 
after the procedure. 
# CODE: Full (confirmed)
# CONTACT: ___ (Wife/HCP): ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 2.5 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Furosemide 40 mg PO DAILY 
4. Gabapentin 100 mg PO BID 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
8. Align (bifidobacterium infantis) 4 mg oral DAILY 
9. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 

 
Discharge Medications:
1. Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
4. Furosemide 40 mg PO DAILY 
5. Gabapentin 100 mg PO BID 
6. Omeprazole 20 mg PO DAILY 
7. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
8. Align (bifidobacterium infantis) 4 mg oral DAILY 
9. Atorvastatin 80 mg PO QPM 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
#Severe aortic stenosis, s/p TAVR
#Asymptomatic bradycardia

SECONDARY DIAGNOSES
===================
#Sacral ulcer, chronic
#Phimosis
#chronic diastolic heart failure
#coronary artery disease

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

During your stay you had a procedure to replace one of your 
heart valves due to severe narrowing. The procedure went well, 
and you had a short stay in the cardiac intensive care unit to 
control your blood pressure as is normal protocol. You were 
transferred to the general cardiology floor for further 
monitoring and a repeat of your heart ultrasound 
(echocardiogram). You were discharged home to follow up with 
your cardiologists. During your stay, your urinary catheter was 
removed without complication. Also, it was noted you had chronic 
anemia (low blood counts), that slowly went down during this 
hospital stay, likely from blood draws. You checked your stools 
for blood, which was negative, and gave a unit of blood before 
discharging you.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___